US09421213B2
1-bromo-2-(2-bromoethoxy)ethane (2.323 ml, 18.63 mmol) was added to (R)-4-(2-chloro-6-((S)-methylsulfinylmethyl)pyrimidin-4-yl)-3-methylmorpholine (1.8 g, 6.21 mmol), sodium hydroxide (16.40 ml, 310.58 mmol) and tetraoctylammonium bromide (0.340 g, 0.62 mmol) in methyl THF (12.34 ml). The resulting mixture was stirred at RT for 24 hours. The reaction mixture was diluted with methyl THF (50 mL), and then washed with water (100 mL). The organic layer was dried over MgSO4, filtered and evaporated onto silica (5 g). The resulting powder was purified by flash chromatography on silica, eluting with a gradient of 0 to 5% MeOH in DCM. Pure fractions were evaporated to afford (R)-4-(2-chloro-6-(4-((S)-methylsulfinyl)tetrahydro-2H-pyran-4-yl)pyrimidin-4-yl)-3-methylmorpholine (1.461 g, 65%); 1H NMR (400 MHz, CDCl3) 1.34 (3H, d), 1.84-1.94 (1H, m), 2.10 (3H, s), 2.24-2.37 (2H, m), 2.44 (1H, ddd), 3.30 (1H, td), 3.41 (1H, ddd), 3.51-3.64 (2H, m), 3.65-3.73 (1H, m), 3.75-3.82 (1H, m), 3.90-4.08 (4H, m), 4.36 (1H, s), 6.46 (1H, s); m/z: (ES+) MH+, 360.15 and 362.11. b) Iodobenzene diacetate (1.437 g, 4.46 mmol) was added to (R)-4-(2-chloro-6-(4-((S)-methylsulfinyl)tetrahydro-2H-pyran-4-yl)pyrimidin-4-yl)-3-methylmorpholine (1.46 g, 4.06 mmol), 2,2,2-trifluoroacetamide (0.459 g, 4.06 mmol), rhodium(II)acetate dimer (0.045 g, 0.10 mmol) and magnesium oxide (0.654 g, 16.23 mmol) in DCM (20.29 ml). The resulting suspension was stirred at RT for 48 hours. Further 2,2,2-trifluoroacetamide (0.459 g, 4.06 mmol), magnesium oxide (0.654 g, 16.23 mmol), iodobenzene diacetate (1.437 g, 4.46 mmol) and rhodium(II)acetate dimer (0.045 g, 0.10 mmol) were added and the suspension was stirred at RT for a further 24 hours. The reaction mixture was filtered and then evaporated onto silica (5 g). The resulting powder was purified by flash chromatography on silica, eluting with a gradient of 20 to 100% EtOAc in isohexane. Pure fractions were evaporated to afford N-[(4-{2-chloro-6-[(3R)-3-methylmorpholin-4-yl]pyrimidin-4-yl}tetrahydro-2H-pyran-4-yl)(methyl)oxido-λ6-(S)-sulfanylidene]-2,2,2-trifluoroacetamide (1.421 g, 74%); 1H NMR (400 MHz, DMSO-d6) 1.20 (3H, d), 2.19-2.31 (2H, m), 2.72-2.84 (2H, m), 3.11-3.28 (3H, m), 3.40-3.45 (1H, m), 3.46 (3H, s), 3.53-3.61 (1H, m), 3.74 (1H, d), 3.94 (3H, d), 4.12 (1H, s), 4.47 (1H, s), 7.05 (1H, s); m/z: (ES+) MH+, 471.04 and 473.00.

reactant | 1-bromo-2-(2-bromoethoxy)ethane | 18.63 mmol, 2.323 ml | BrCCOCCBr | C4H8Br2O
reactant | (R)-4-(2-chloro-6-((S)-methylsulfinylmethyl)pyrimidin-4-yl)-3-methylmorpholine | 6.21 mmol, 1.8 g | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)C[S@@](=O)C | C11H16ClN3O2S
reactant | sodium hydroxide | 310.58 mmol, 16.40 ml | [OH-].[Na+]
catalyst | tetraoctylammonium bromide | 0.62 mmol, 0.340 g | [Br-].C(CCCCCCC)[N+](CCCCCCCC)(CCCCCCCC)CCCCCCCC
solvent | methyl THF | 12.34 ml | CN1C(CNC2=C1C(=O)N=C(N2)N)CNC3=CC=C(C=C3)C(=O)NC(CCC(=O)O)C(=O)O | C20H25N7O6
solvent | methyl THF | 50 mL | CN1C(CNC2=C1C(=O)N=C(N2)N)CNC3=CC=C(C=C3)C(=O)NC(CCC(=O)O)C(=O)O | C20H25N7O6
product | (R)-4-(2-chloro-6-(4-((S)-methylsulfinyl)tetrahydro-2H-pyran-4-yl)pyrimidin-4-yl)-3-methylmorpholine | 1.461 g, 65% | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)C1(CCOCC1)[S@@](=O)C | C15H22ClN3O3S
